2129-02-26 10:59:00 Physician Attending Progress Note
Chief Complaint: Septic Shock
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2129-2-25**] 09:45 AM
   Patient with pressors weaned to off.
   Patient with severe compromise in cardiac function
   Hematochezia noted
   Transfusion to HCT >30 with restoration of CvO2 at >70% and pressors
   able to be weaned off
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Morphine
   Pruritis;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2129-2-25**] 02:55 AM
   Acyclovir - [**2129-2-26**] 05:49 AM
   Vancomycin - [**2129-2-26**] 08:00 AM
   Cefipime - [**2129-2-26**] 08:42 AM
   Gentamicin - [**2129-2-26**] 09:42 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2129-2-26**] 10:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.5
C (97.7
   HR: 79 (79 - 97) bpm
   BP: 102/62(77) {85/49(61) - 113/75(89)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 67 Inch
   CVP: 8 (2 - 18)mmHg
   Total In:
                                                                 11,114 mL
                                                                  1,487 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                  3,489 mL
                                                                    814 mL
   Blood products:
                                                                    625 mL
                                                                    623 mL
   Total out:
                                                                  2,891 mL
                                                                  1,545 mL
   Urine:
                                                                  2,891 mL
                                                                  1,545 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  8,223 mL
                                                                    -58 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: 7.41/23/137/19/-7
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   22 K/uL
   117 mg/dL
   0.8 mg/dL
   19 mEq/L
   4.3 mEq/L
   23 mg/dL
   120 mEq/L
   144 mEq/L
   24.3 %
   0.3 K/uL
        [image002.jpg]
                             [**2129-2-25**]  02:23 AM
                             [**2129-2-25**]  03:47 AM
                             [**2129-2-25**]  07:29 AM
                             [**2129-2-25**]  02:07 PM
                             [**2129-2-25**]  02:35 PM
                             [**2129-2-25**]  06:36 PM
                             [**2129-2-26**]  02:13 AM
                             [**2129-2-26**]  07:22 AM
   WBC
   0.2
   0.6
   0.3
   Hct
   21.1
   30.3
   24.3
   Plt
   28
   18
   9
   22
   Cr
   0.8
   0.8
   0.8
   TCO2
   18
   13
   15
   Glucose
   117
   206
   117
   Other labs: PT / PTT / INR:17.0/36.1/1.5, CK / CKMB / Troponin-T:416//,
   ALT / AST:43/39, Alk Phos / T Bili:118/1.2, Differential-Neuts:0.0 %,
   Band:0.0 %, Lymph:100.0 %, Mono:0.0 %, Eos:0.0 %, Fibrinogen:556 mg/dL,
   Lactic Acid:1.2 mmol/L, Albumin:2.9 g/dL, Ca++:8.3 mg/dL, Mg++:2.3
   mg/dL, PO4:3.4 mg/dL
   Imaging: CXR-Small/Mod effusion on left with small effusion suggested
   on right side.  Minimal parenchymal infiltrate but suggestion of
   persistent volume overload.
   Microbiology: [**Year (4 digits) **]'s
   Assessment and Plan
   56 yo female admit with [**Year (4 digits) **] sepsis with shock and now with good
   response to initial ABX Rx and with careful IVF administration and
   pressor titration has been able to move to 2 lpm and wean off of all
   pressors.  She has unclear source for [**Name (NI) **] but with significant risk of
   GI source in setting of Neutropenia
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   -Continued large volume of stool with blood
   -Will need to consider possible sources which are led by secretory
   blood diarrhea of large or small bowel
without any suggestion of
   gastric complaints or hematemesis this would be most likely lower
   source
   -GI to eval if not resolving as may be thrombocytopenia and mucositis
   but will need to defer to oncology
   -Stool culture
 SEPSIS WITHOUT ORGAN DYSFUNCTION
   -Vanco/Cefepime/Gentamycin
   -Hydrocortisone x 3 days
   -Stool culture for possible source of sepsis and secretory/bloody
   diarrhea
   -Follow up cultures results
   PANCYTOPENIA
   -HCT goal of 25 particularly in setting of ongoing bleeding
   -Transfuse PLTs given ongoing bleeding
   ICU Care
   Nutrition: npo for now
   Glycemic Control:
   Lines:
   Multi Lumen - [**2129-2-25**] 01:45 AM
   18 Gauge - [**2129-2-25**] 01:45 AM
   Arterial Line - [**2129-2-25**] 09:45 AM
   Prophylaxis:
   DVT: Boots
OOB to chair today
   Stress ulcer: PPI
move to [**Hospital1 7**]
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes